US06486342B1
4-[[(3-chloro-5-methylanilino)carbonyl]methyl]phenol
To a solution of 4 hyroxyphenylacetic acid (5.9 g,39 mmol) and 1-hydroxybenzotriazole hydrate (5.8 g,43 mmol) in dimethylformamide (40 mL), 25 (5.5 g, 39 mmol) and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (9.0 g,47 mmol) were added. The reaction mixture was stirred overnight at room temperature, then diluted with ethyl acetate (100 mL). The mixture was washed with water (3×5 mL) and 10% potassium hydrogen sulfate (3×50 mL). The organic layers were combined and washed with brine, then dried over anhydrous MgSO4. The solvent was removed under reduced pressure to give a brown oil. Recrystallization from methylene chloride and hexane afforded a beige solid, 6.26 g, 58%. mp 176-178° C.

reactant | hyroxyphenylacetic acid | 39 mmol, 5.9 g | OC(C(=O)O)C1=CC=CC=C1 | C8H8O3
reactant | 1-hydroxybenzotriazole hydrate | 43 mmol, 5.8 g | O.ON1N=NC2=C1C=CC=C2
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 47 mmol, 9.0 g | Cl.CN(CCCN=C=NCC)C
reactant | dimethylformamide | 40 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | 4-[[(3-chloro-5-methylanilino)carbonyl]methyl]phenol | ClC=1C=C(NC(=O)CC2=CC=C(C=C2)O)C=C(C1)C | C15H14ClNO2
